US08486962B2
To a solution of {3-[2-Oxo-2-(2-phenyl-indolizin-3-yl)-acetylamino]-phenoxy}-acetic acid ethyl ester (0.4 g, 0.90 mmol) in methanol (3 ml) was added lithium hydroxide (38 mg, 1.8 mmol) and a few drops of water. The reaction mixture was stirred at room temperature for 30 min, and then concentrated under reduced pressure. The reaction mixture was diluted with water (10 ml) and adjusted to pH 3 with 2N hydrochloric acid. The product was extracted with ether and the organic layer dried over sodium sulphate, filtered, then evaporated to dryness to yield {3-[2-oxo-2-(2-phenyl-indolizin-3-yl)-acetylamino]-phenoxy}-acetic acid (0.2 g, 53%).

reactant | {3-[2-Oxo-2-(2-phenyl-indolizin-3-yl)-acetylamino]-phenoxy}-acetic acid ethyl ester | 0.90 mmol, 0.4 g | C(C)OC(COC1=CC(=CC=C1)NC(C(C1=C(C=C2C=CC=CN12)C1=CC=CC=C1)=O)=O)=O | C26H22N2O5
reactant | lithium hydroxide | 1.8 mmol, 38 mg | [OH-].[Li+]
solvent | methanol | 3 ml | CO | CH4O
catalyst | water | a few drops | O | H2O
product | {3-[2-oxo-2-(2-phenyl-indolizin-3-yl)-acetylamino]-phenoxy}-acetic acid | 0.2 g, 53% | O=C(C(=O)NC=1C=C(OCC(=O)O)C=CC1)C1=C(C=C2C=CC=CN12)C1=CC=CC=C1 | C24H18N2O5
